US09023840B2
Step 5: 4-[3-(cyanomethylene)azetidin-1-yl]-N-isopropylbenzamide
To a cooled (at −6 to 0° C.) solution of 1.0 M potassium tert-butoxide in tetrahydrofuran (7.10 mL, 7.10 mmol) was added dropwise a solution of diethyl cyanomethylphosphonate (1.20 mL, 7.43 mmol, Aldrich: Cat. #D91705) in tetrahydrofuran (10.0 mL) over a period of 10 minutes and at −6 to 0° C. The reaction was warmed and stirred at room temperature for 1 hour. The reaction mixture was re-cooled at −6° C. To the reaction mixture was then added a solution of N-isopropyl-4-(3-oxoazetidin-1-yl)benzamide (1.30 g, 5.60 mmol) in tetrahydrofuran (10.0 mL) over a period of 10 minutes. During this time the temperature of the reaction mixture was between −5 to 0° C. The reaction was allowed to warm to room temperature and was stirred for 3 hours. The reaction mixture was filtered through a pad of silica gel and washed with ethyl acetate. The filtrate was concentrated, and the residue was treated with ether. The precipitates formed were collected by filtration to give 0.60 g desired product. The mother liquid was concentrated under reduced pressure. The residue was purified by flash chromatography on a silica gel column with ethyl acetate in hexane (gradient: 30-80%) to afford the desired product (0.21 g). the total product is 0.81 g (57%). LCMS (M+H)+: m/z=256.1.

reactant | potassium tert-butoxide | 1.0 M | CC(C)([O-])C.[K+]
reactant | diethyl cyanomethylphosphonate | 7.43 mmol, 1.20 mL | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | N-isopropyl-4-(3-oxoazetidin-1-yl)benzamide | 5.60 mmol, 1.30 g | C(C)(C)NC(C1=CC=C(C=C1)N1CC(C1)=O)=O | C13H16N2O2
solvent | tetrahydrofuran | 10.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7.10 mmol, 7.10 mL | O1CCCC1 | C4H8O
product | 4-[3-(cyanomethylene)azetidin-1-yl]-N-isopropylbenzamide | 0.60 g | C(#N)C=C1CN(C1)C1=CC=C(C(=O)NC(C)C)C=C1 | C15H17N3O
